US08124766B2
With a procedure similar to the example above, 7-methoxy-3-methyl-1H-indole-2-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide was prepared from 7-methoxy-3-methyl-1H-indole-2-carboxylic acid and N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C20H24N4O3 (m/e) 368, obsd 369 (M+H).

reactant | 7-methoxy-3-methyl-1H-indole-2-carboxylic acid | COC=1C=CC=C2C(=C(NC12)C(=O)O)C | C11H11NO3
reactant | N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine | COCCN(C1=NC=C(C=C1)N)C | C9H15N3O
product | 7-methoxy-3-methyl-1H-indole-2-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide | COCCN(C1=CC=C(C=N1)NC(=O)C=1NC2=C(C=CC=C2C1C)OC)C | C20H24N4O3
